US08106077B2
Methanesulfonic acid 3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethyl ester
To a solution of [3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-yl]-methanol (0.100 g) in dichloromethane (2 mL) is added Et3N (0.25 mL) followed by methanesulfonyl chloride (0.075 mL). The reaction mixture is stirred at room temperature for 2 h. The reaction is diluted with ethyl acetate (20 mL) and washed with water (2×20 mL). The organic layer is dried (Na2SO4) and concentrated under reduced pressure to give the title compound (101 mg). 1H NMR (400 MHz, CDCl3): δ 7.40-7.60 (m, 3H), 5.10 (s, 2H), 3.20-3.30 (m, 1H), 2.85 (s, 3H), and 1.40-1.50 (d, 6H).

reactant | [3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-yl]-methanol | 0.100 g | ClC1=C(C(=CC=C1)Cl)N1N=NC(=C1CO)C(C)C | C12H13Cl2N3O
reactant | Et3N | 0.25 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.075 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | Methanesulfonic acid 3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethyl ester | 101 mg | ClC1=C(C(=CC=C1)Cl)N1N=NC(=C1COS(=O)(=O)C)C(C)C | C13H15Cl2N3O3S
